US07250442B2
1-Benzyl-3-(4-benzyloxy-3,5-dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one
Dissolve 5-bromo-1,3-dimethyl-2-(phenylmethoxy)-benzene (2.56 g, 8.8 mmol) in ethylene glycol dimethyl ether (40 mL) under nitrogen. Cool to −70° C. with a dry ice/acetone bath and add slowly a 1.7M solution of t-butyllithium in pentane (10.4 mL, 17.6 mmol). After 15 min add 1-benzyl-1H-indole-2,3-dione (1.90 g, 8 mmol) in ethylene glycol dimethyl ether (32 mL). Remove the bath and allow to warm to room temperature with stirring for 18 h. Quench with saturated NH4Cl solution and extract with ethyl acetate (2×). Wash combined organics with brine and then dry (Na2SO4), filter and concentrate in vacuo to give 3.42 g of a dark purple oil. Purify initially by flash chromatography (25% EtOAC/hexanes) to give 1.20 g of material which by TLC is mostly starting material and product. Purify further by chromatography (step gradient of CH2Cl2, 5% acetonitrile/CH2Cl2, 10% acetonitrile/CH2Cl2) to give 803 mg (22%) of the title compound as a yellow foam. MS (ES): m/z=432 (M+1−H2O); 1H NMR(DMSO-d6); δ7.50-7.18 (m, 12H), 7.00 (m, 2H), 6.95 (s, 2H), 6.77 (s, 1H), 4.93 (q, J=2 Hz, J=18 Hz, 2H), 4.77 (s, 2H), 2.20 (s, 6H).

reactant | 5-bromo-1,3-dimethyl-2-(phenylmethoxy)-benzene | 8.8 mmol, 2.56 g | BrC=1C=C(C(=C(C1)C)OCC1=CC=CC=C1)C | C15H15BrO
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 17.6 mmol, 10.4 mL | CCCCC | C5H12
reactant | 1-benzyl-1H-indole-2,3-dione | 8 mmol, 1.90 g | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)=O)=O | C15H11NO2
solvent | ethylene glycol dimethyl ether | 40 mL | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 32 mL | COCCOC | C4H10O2
product | 1-Benzyl-3-(4-benzyloxy-3,5-dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one | 3.42 g | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(O)C1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)C)=O | C30H27NO3
